US07208489B2
HCl gas was bubbled through a solution of 4-[6-(8-cyclohexyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (105 mg, 0.21 mmol) in CH2Cl2 (3 mL) at room temperature until a solid was formed. The mixture was stirred at room temperature for 6 hours and the solid formed was collected by filtration. The solid was hygroscopic. It was recrystalized from MeOH with addition of a few drops of water to yield 8-cyclohexyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt (40 mg, 35%). mp: 228–230° C. Anal Calc'd for C22H27N7O2O HCl 3.5 H2O: C, 48.80; H, 6.70; N, 18.11; Cl, 13.09. Found: C, 48.88; H, 6.39; N, 17.95; Cl, 12.88.

reactant | HCl | Cl | ClH
reactant | 4-[6-(8-cyclohexyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.21 mmol, 105 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C=C2)=O)C2CCCCC2 | C27H35N7O3
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 8-cyclohexyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt | 40 mg, 35% | Cl.C1(CCCCC1)N1C(C=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)=O | InChI=1S/C22H27N7O.ClH/c30-20-9-6-16-14-25-22(27-21(16)29(20)17-4-2-1-3-5-17)26-19-8-7-18(15-24-19)28-12-10-23-11-13-28;/h6-9,14-15,17,23H,1-5,10-13H2,(H,24,25,26,27);1H
